US06288061B1
Ethyl 2-(4-tert-butylphenyl)-5-(4-nitrophenyl)imidazole-4-carboxylate (22.5 g), ethyl alcohol (1.2 L) and 1 M aqueous sodium hydroxide solution (225 ml) were reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 2-(4-tert-butylphenyl)-5-(4-nitrophenyl)imidazole-4-carboxylic acid (18.4 g), melting point 223° C. (decomposition).

reactant | Ethyl 2-(4-tert-butylphenyl)-5-(4-nitrophenyl)imidazole-4-carboxylate | 22.5 g | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(=C(N1)C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C22H23N3O4
reactant | sodium hydroxide | 1 M, 225 ml | [OH-].[Na+]
solvent | ethyl alcohol | 1.2 L | C(C)O | C2H6O
product | 2-(4-tert-butylphenyl)-5-(4-nitrophenyl)imidazole-4-carboxylic acid | 18.4 g | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(=C(N1)C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C20H19N3O4
